US07960383B2
Benzyloxycarbonylmethyl 5-amino-1-ethyl-6-oxo-1,6-dihydropyridazine-3-carboxylate
5-Amino-1-ethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid (0.6 g, 3.3 mmol, see Preparation 5), benzyl bromoacetate (1.6 ml, 4.8 mmol), and potassium carbonate (0.5 g, 3.3 mmol) were suspended in dimethylformamide (30 ml) and heated overnight at 50° C. The solvent was evaporated under reduced pressure and the residue was passed through a silica-gel column, eluting with hexane/ethyl acetate 3:2, to yield 1.0 g of the desired final product. Yield=92%

reactant | 5-Amino-1-ethyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 3.3 mmol, 0.6 g | NC1=CC(=NN(C1=O)CC)C(=O)O | C7H9N3O3
reactant | benzyl bromoacetate | 4.8 mmol, 1.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 3.3 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonylmethyl 5-amino-1-ethyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | 1.0 g, Yield=92% | NC1=CC(=NN(C1=O)CC)C(=O)OCC(=O)OCC1=CC=CC=C1 | C16H17N3O5
